US08735586B2
2,4-Dimethyl-1-phenyl-1H-benzoimidazole-5-carboxylic acid methyl ester
The title compound was prepared with the analogous procedure described in example 3 using 4-Bromo-2-methyl-3-nitrobenzoic acid methyl ester and N-phenylacetamide (81 mg, 0.6 mmol) as starting materials to yield the title compound as yellow solid. 1H NMR (DMSO) δ 2.49 (s, 3 H), 2.62 (s, 3 H), 7.18 (d, J=8.6 Hz, 1 H), 7.28 (d, J=8.6 Hz, 1 H), 7.52-7.61 (m, 6 H); 13C NMR δ 13.5, 14.7, 51.8, 108.0, 123.7, 125.9, 126.9, 129.7, 130.1, 130.2, 134.0, 136.5, 138.0, 152.8, 167.2.

reactant | 4-Bromo-2-methyl-3-nitrobenzoic acid methyl ester | COC(C1=C(C(=C(C=C1)Br)[N+](=O)[O-])C)=O | C9H8BrNO4
reactant | N-phenylacetamide | 0.6 mmol, 81 mg | C1(=CC=CC=C1)NC(C)=O | C8H9NO
product | 2,4-Dimethyl-1-phenyl-1H-benzoimidazole-5-carboxylic acid methyl ester | COC(=O)C1=C(C2=C(N(C(=N2)C)C2=CC=CC=C2)C=C1)C | C17H16N2O2
